US04853410
3-(4-Nitrophenoxy)butyric Acid
4-Nitrophenol (34.78 g, 0.25 mol) was added to a solution of 10 g (0.25 mol) sodium hydroxide in 100 ml water and the solution heated at reflux for 15 minutes. To the solution at reflux, 20.4 ml (0.25 mol) betabutyrolactone was added dropwise over a 1.5 hour period. The reaction was cooled to 23° C. and extracted with 2×150 ml diethyl ether. The combined ether layers were extracted with 4×140 ml saturated sodium bicarbonate solution and the bicarbonate then acidified with 60 ml concentrated hydrochloric acid and back-extracted with 200 ml diethyl ether. The ether back extract was washed with 50 ml water and 50 ml brine, and dried over magnesium sulfate. Concentration in vacuo gave the product as a yellow oil, 31.2 g (55%).

reactant | 4-Nitrophenol | 0.25 mol, 34.78 g | [N+](=O)([O-])C1=CC=C(C=C1)O | C6H5NO3
reactant | sodium hydroxide | 0.25 mol, 10 g | [OH-].[Na+]
reactant | betabutyrolactone | 0.25 mol, 20.4 ml | C1(CC(C)O1)=O | C4H6O2
solvent | water | 100 ml | O | H2O
product | 3-(4-Nitrophenoxy)butyric Acid | [N+](=O)([O-])C1=CC=C(OC(CC(=O)O)C)C=C1 | C10H11NO5
